US06747023B1
2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine hydrochloride
To 5-(t-butoxycarbonyl)-2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine (280 mg), a saturated solution hydrochloride in ethanol (25 ml) was added at room temperature, followed by stirring for 1 hour. The reaction mixture was then concentrated. Water (10 ml) was added to the concentrate, followed by concentration under reduced pressure, whereby the title compound (210 mg) was obtained as a white solid.

reactant | 5-(t-butoxycarbonyl)-2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 280 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)N(C(=C2)C(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl)C | C28H33ClN4O5S
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-[[4-[(6-Chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-1-methyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=2CNCCC2N1C | InChI=1S/C23H25ClN4O3S.ClH/c1-26-21-6-7-25-15-18(21)14-22(26)23(29)27-8-10-28(11-9-27)32(30,31)20-5-3-16-12-19(24)4-2-17(16)13-20;/h2-5,12-14,25H,6-11,15H2,1H3;1H
